US04619783
p-Nitrobenzyl 2-(4-ethylthio-3-p-nitrobenzyloxycarbonyloxyethyl-2-oxo-1-azetidinyl)-2-chloroacetate
A solution of 11.3 g p-nitrobenzyl 2(4-ethylthio-3-p-nitrobenzyloxycarbonyloxyethyl-2-oxo-1-azetidinyl)-2-hyroxyacetate and 3.02 ml 2,6-lutidine in 175 ml anhydrous tetrahydrofuran was cooled to 0° C. under a nitrogen atmosphere. Thionyl chloride (1.75 ml) was added dropwise and the resulting mixture was stirred at 0° C. for 20 min. The mixture was filtered through Supercel and the filtrate was concentrated in vacuo. The concentrate was dissolved in methylene chloride and the resulting solution was washed successively with 200 ml 1N aqueous hydrochloric acid, 200 ml saturated aqueous sodium bicarbonate solution and 200 ml saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo to an oil (11.6 g) of the title compound. The NMR spectrum of the title compound in deuterochloroform showed peaks at 1.04-1.6 (c, 6H); 2.6 (m, 2H); 3.4 (m, 1H); 4.8-5.4 (c, 6H); 5.85, 5.9, 5.98, 6.1 (s, 1H); 7.5 (m, 4H); 8.2 (m, 4H) ppm.

reactant | p-nitrobenzyl 2(4-ethylthio-3-p-nitrobenzyloxycarbonyloxyethyl-2-oxo-1-azetidinyl)-2-hyroxyacetate | 11.3 g | C(C)SC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O)=O)CCOC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C24H25N3O11S
reactant | 2,6-lutidine | 3.02 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | Thionyl chloride | 1.75 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
product | p-Nitrobenzyl 2-(4-ethylthio-3-p-nitrobenzyloxycarbonyloxyethyl-2-oxo-1-azetidinyl)-2-chloroacetate | C(C)SC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Cl)=O)CCOC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C24H24ClN3O10S
